US09259470B2
1-((S)-2-(tert-Butyldimethylsilyloxy)-1-(3,4-dichlorophenyl)ethyl)-4-(2-((3S,4R)-3-fluorotetrahydro-2H-pyran-4-ylamino)pyrimidin-4-yl)pyridin-2(1H)-one was prepared according to the general procedure of Example 2, Step A, substituting (3S,4R)-3-fluorotetrahydro-2H-pyran-4-amine for tetrahydro-2H-pyran-4-amine and (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(3,4-dichlorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one for (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one. m/z (APCI-pos) M+1=593.1, 595.2.

reactant | tetrahydro-2H-pyran-4-amine | O1CCC(CC1)N | C5H11NO
reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(3,4-dichlorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)Cl)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29Cl2N3O4SSi
reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
product | 1-((S)-2-(tert-Butyldimethylsilyloxy)-1-(3,4-dichlorophenyl)ethyl)-4-(2-((3S,4R)-3-fluorotetrahydro-2H-pyran-4-ylamino)pyrimidin-4-yl)pyridin-2(1H)-one | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)Cl)N1C(C=C(C=C1)C1=NC(=NC=C1)N[C@H]1[C@@H](COCC1)F)=O | C28H35Cl2FN4O3Si
